* C:\users\anonymous\My Documents\ENGR3426\buffer\bufferlvs.asc
XX1 N001 Vout Vdd 0 inverter
XX2 Vin N001 Vdd 0 inverter

* block symbol definitions
.subckt inverter in out pos neg
MXU1 out in pos Vdd pfet W=1.8u L=0.6u
MXU2 out in neg 0 nfet W=1.8u L=0.6u
.ends inverter

.backanno
.end
